US08236976B2
Preparation of (S)-1-Methyl-4-cyclohexyl-buten-4-ol (Table 2, Compound 13)
A 10 mL Schlenk flask was charged with 3.5 mg (0.015 mmol) (−)-MIB and a stir bar. Under a nitrogen atmosphere in a glovebox, the di(2-methyl-propene)zinc reagent (89.5 mg, 0.51 mmol) was weighed and added to the Schlenk flask. Toluene (1.5 mL) was added, followed by 3.1 equiv Et2Zn (115 μL, 1.13 mmol). After cooling to 0° C., cyclohexanecarboxaldehyde (40.8 mg, 0.36 mmol) was added dropwise. After the reaction was complete (2 h), it was quenched with saturated aq NH4Cl. The organic and aqueous layers were separated and the aqueous layer was extracted with diethyl ether (3×25 mL). The combined organic layers were washed with brine, dried over MgSO4 and concentrated. The crude product was purified by column chromatography on silica (70:20:10, hexanes:CH2Cl2:EtOAc) to afford the title compound as a colorless oil in 75% yield (45.8 mg, 0.27 mmol). 1H NMR and 13C{1H} NMR spectra for this compound were identical to the previously reported literature data.

reactant | Et2Zn | 1.13 mmol, 115 μL, 3.1 equiv | [Zn](CC)CC
reactant | cyclohexanecarboxaldehyde | 0.36 mmol, 40.8 mg | C1(CCCCC1)C=O | C7H12O
reactant | Toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-1-Methyl-4-cyclohexyl-buten-4-ol | 75% yield | CC=CC[C@H](O)C1CCCCC1 | C11H20O
